US06750232B2
(E)-1,3-Di(3-fluorophenyl)-2-propen-1-one
A mixture of 3-fluorobenzaldehyde (7.63 mL, 72.4 mmol), 3-fluoroacetophenone (10 g, 72.4 mmol), potassium hydroxide (5.18 g, 92.6 mmol), ethanol (23 mL) and water (47 mL) was stirred overnight at room temperature. After the reaction solution was diluted with water, the solid was collected by filtration and washed with ethanol and diethyl ether, to give the title compound (16.4 g, 93%).

reactant | 3-fluorobenzaldehyde | 72.4 mmol, 7.63 mL | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | 3-fluoroacetophenone | 72.4 mmol, 10 g | CC(=O)C1=CC(=CC=C1)F | C8H7FO
reactant | potassium hydroxide | 92.6 mmol, 5.18 g | [OH-].[K+]
reactant | ethanol | 23 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 47 mL | O | H2O
product | (E)-1,3-Di(3-fluorophenyl)-2-propen-1-one | 16.4 g, 93% | FC=1C=C(C=CC1)C(\C=C\C1=CC(=CC=C1)F)=O | C15H10F2O
